US04459407
In 10 ml of ethyl mercaptan was dissolved 1.0 g of 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine, and 0.01 ml of 5.7 N hydrogen chloride-dioxane solution was added thereto, after which the resulting mixture was subjected to reaction at room temperature for 3 hours. After the completion of the reaction, the reaction mixture was distilled under reduced pressure, and 50 ml of diisopropyl ether was added to the crystals thus obtained, after which the resulting crystals were filtered. The crystals thus obtained were recrystallized from isopropyl alcohol to obtain 0.8 g (86.8% yield) of white crystalline 1-benzyl-4-{4-[N-ethylthiomethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine having a melting point of 144° C.

reactant | 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine | 1.0 g | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)N(C1=NC=CC=N1)COC(C(C)(C)C)=O)=O)=O | C28H31N5O4
reactant | hydrogen chloride dioxane | 5.7 N, 0.01 ml | Cl.O1CCOCC1
reactant | ethyl mercaptan | 10 ml | C(C)S | C2H6S
product | 1-benzyl-4-{4-[N-ethylthiomethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine | 0.8 g, 86.8% yield | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)N(C1=NC=CC=N1)CSCC)=O)=O | C25H27N5O2S
